US06211234B1
(R)-4-[2-(5-methoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid (0.2 g) is dissolved in methanol (20 mL) and concentrated aqueous ammonia (20 mL). After standing at room temperature overnight .the solution is evaporated to dryness and the residue triturated successively with ether and ethyl acetate to give (R)-4-[2-(5-carbamoylpyrazol-3-yl)-5-(3-pyridylmethoxy)-phenoxy]-4-(2-methylphenyl)butanoic acid (0.035 g) as a white powder, mp 180-192° C.

reactant | (R)-4-[2-(5-methoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid | 0.2 g | COC(=O)C1=CC(=NN1)C1=C(O[C@H](CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C28H27N3O6
reactant | ammonia | 20 mL | N | H3N
solvent | methanol | 20 mL | CO | CH4O
product | (R)-4-[2-(5-carbamoylpyrazol-3-yl)-5-(3-pyridylmethoxy)-phenoxy]-4-(2-methylphenyl)butanoic acid | 0.035 g | C(N)(=O)C1=CC(=NN1)C1=C(O[C@H](CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C27H26N4O5
